US05281742
An acetonitrile solution (100 ml) containing 3N-(2-fluoro-4-chloro-5-hydroxyphenyl)-1,3-oxazolidine -2,4-dione (1.0 g, 3.50 mmol), cyclopentyl p-toluenesulfonate (1.0 g, 4.16 mmol) and potassium carbonate (0.5 g, 3.62 mmol) was heated for 4 hours under reflux. After reaction, the mixture was poured into water (100 ml) and extracted with ethyl acetate (50 ml ×3). The organic layer was washed with saturated sodium hydrogen carbonate aqueous solution (50 ml) and saturated brine (50 ml) and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, the solvent was removed by distillation, and 3N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione was obtained. This was purified by silica gel chromatography (ethyl acetate/hexane =1/2) to obtain a white solid of the intended product (0.99 g, 2.80 mmol). Yield: 80.0 %. Spectral and other data of the product are those as shown in Example 27.

reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | (2-fluoro-4-chloro-5-hydroxyphenyl)-1,3-oxazolidine -2,4-dione | 3.50 mmol, 1.0 g | FC1=C(C=C(C(=C1)Cl)O)N1C(OCC1=O)=O | C9H5ClFNO4
reactant | cyclopentyl p-toluenesulfonate | 4.16 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCCC1)C | C12H16O3S
reactant | potassium carbonate | 3.62 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | (2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione | Yield: 80.0 % | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(OC(C1=O)=C(C)C)=O | C17H17ClFNO4
